US07863271B2
To a solution of tert-butyl 6,9-diazaspiro[4.5]decane-9-carboxylate (192 mg, 0.80 mmol) in DME (10 mL) was added NaH (60%, 96 mg, 2.4 mmol). The reaction mixture was stirred at room temperature for 10 min, followed by addition of methyl 2-chlorobenzoxazole-4-carboxylate (186 mg, 0.88 mmol). The reaction mixture was stirred at room temperature for 20 h. The reaction was quenched by adding 5 mL of H2O and extracted with EtOAc (2×30 mL). The organic layer was washed by brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, 50-100% chloroform in hexane) to afford methyl 2-(9-(tert-butoxycarbonyl)-6,9-diazaspiro[4.5]decan-6-yl)benzoxazole-4-carboxylate (61.4 mg, 18.5%) as yellow oil. MS consistent.

reactant | tert-butyl 6,9-diazaspiro[4.5]decane-9-carboxylate | 0.80 mmol, 192 mg | C1CCCC12NCCN(C2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | NaH | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 0.88 mmol, 186 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
solvent | DME | 10 mL | COCCOC | C4H10O2
product | methyl 2-(9-(tert-butoxycarbonyl)-6,9-diazaspiro[4.5]decan-6-yl)benzoxazole-4-carboxylate | 61.4 mg, 18.5% | C(C)(C)(C)OC(=O)N1CCN(C2(CCCC2)C1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C22H29N3O5
